US03939202
To a solution of 3,7,11,15,19,23,27,31,35-nonamethyl-2,6,10,14,18,26,30,34-hexatriacontaoctaen-22-on-1-ol 6.5 g) in pyridine (1 g), acetic anhdyride (3.0 g) is added, and the resulting mixture is allowed to stand at room temperature for 5 hours. The reaction mixture is poured into ice water and shaken with ether. The ether layer is washed with water, dried and evaporated. The residual material (6.5 g) is chromatographed on silica gel (70 g) using benzene to give 1-acetoxy-3,7,11,15,19,23,27,31,35-nonamethyl-2,6,10,14,18,26,30,34-hexatriacontaoctaen-22-one (6.1 g). A solution of this compound in ethanol (6 ml) is dropwise added to a solution of sodium borohydride (0.1 g) in ethanol (10 ml) while cooling with ice, and stirring is continued for 3 hours. The reaction mixture is poured into an aqueous saturated solution of ammonium chloride and extracted with ether. The ether extract is washed with water, dried and concentrated. The residual material (4.8 g) is treated as in Example 1 (5) a) to give 1-acetoxy-3,7,11,15,19,23,27,31, 35-nonamethyl-2,6,10,14,18,26,30,34-hexatriacontaoctaen- 22-ol (2.1 g) as a fraction (1) and 3,7,11,15,19,23,27,31,35-nonamethyl-2,6,10,14,18,26,30,34-hexatriacontaoctaene-1,22-diol (0.9 g) as a fraction (2). The latter is treated with acetic anhydride as above to give 1-acetoxy-3,7,11,15,19,23,27,31,35-nonamethyl-2,6,10,14,18,26,30,34-hexatriacontaoctaen-22-ol (0.82 g).

reactant | 3,7,11,15,19,23,27,31,35-nonamethyl-2,6,10,14,18,26,30,34-hexatriacontaoctaen-22-on-1-ol | 6.5 g | CC(=CCO)CCC=C(CCC=C(CCC=C(CCC=C(CCC(C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)=O)C)C)C)C | C45H74O2
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | ether | CCOCC | C4H10O
solvent | pyridine | 1 g | N1=CC=CC=C1 | C5H5N
product | 1-acetoxy-3,7,11,15,19,23,27,31,35-nonamethyl-2,6,10,14,18,26,30,34-hexatriacontaoctaen-22-one | 6.1 g | C(C)(=O)OCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC(C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)=O)C)C)C)C)C | C47H76O3
